US03950333
Reacting ethylenediamine with 3-chloromethylpyridazine by the procedure of Example 34 gives N-(3-pyridazinylmethyl)ethylenediamine. This intermediate is reacted with S-methylisothiouronium sulphate by the procedure of Example 1 to give the title compound.

reactant | ethylenediamine | C(CN)N | C2H8N2
reactant | 3-chloromethylpyridazine | ClCC=1N=NC=CC1 | C5H5ClN2
product | N-(3-pyridazinylmethyl)ethylenediamine | N1=NC(=CC=C1)CNCCN | C7H12N4
